US05225402
1-[1-(4-Aminobenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (500 mg) and 2,5-dimethoxytetrahydrofuran (0.19 ml) are refluxed with heating for 2 hours in acetic acid. The solvent is concentrated and the residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) and recrystallized from n-hexane to give 1-{1-[4-(1-pyrrolyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (228 mg) as light gray powder, m.p.: 153°-156° C.

reactant | 1-[1-(4-Aminobenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 500 mg | NC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C21H23N3O2
reactant | 2,5-dimethoxytetrahydrofuran | 0.19 ml | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-{1-[4-(1-pyrrolyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 228 mg | N1(C=CC=C1)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C25H25N3O2
